datasets/10k__Tet_Int.csv
SMILES Labelled
"C[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[O]2.C[S:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)C)CCCCCC)[O-:10])[H]>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)C)CCCCCC)[H] 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)C)CCCCCC 21=20;20,10=10"
"[H][O:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[NH]2.C[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C([H])[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][NH:10]C(C)C(C)C([H])[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1CCCCCC)[H].[O-:21]C1=CC=CC=C1>>CCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)[H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(C)C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(C)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][S+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C(C)C([H])[S][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21]C)[O][CH](CC)C([H])[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[S]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]([O:21]C)([O]C)[S][H].[Cl-]>>[Cl-].[H][O:10][H].C[O+:21]=[C:20]([O]C)[S][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21][H])C1=CC=CC=C1)C>>CCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C.[O-:21][H] 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C([H])C([H])C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])C([H])C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](CC)C([H])[CH](C)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)CC)C)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)CC)C)C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[S]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(C)C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S:10][H].C[O+:21]=[C:20]([S]CC)[S]CC.[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]([O:21]C)([S]CC)[S]CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C)[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C)[O]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C)CCCCCC 21=20;20,10=10"
"C[O:10][C:20]([O-:21])(OCC)OC>>[O:21]=[C:20](OCC)OC.[O-:10]C 21=20;20,10=10"
"CN([C:20](=[O:10])O[H])C.[O-:21]CC>>CN([C:20]([O-:10])(O[H])[O:21]CC)C 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1[H])([O-:10])[Cl:21])C1=CC=CC=C1)C1=CC=CC=C1>>[H]C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[H][O:10]C([H])C([H])[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O]C8=CC=CC=C8)[NH][H] 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C(C)C([H])[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
